US09169254B2
Phosgene (3.5 ml, 6.64 mmol, 20% solution in toluene) and N,N-diisopropylethylamine (1.2 ml, 6.64 mmol) were added to a solution of N-(2-(benzyloxy)ethyl)-4-bromo-3,5-dimethylaniline (740 mg, 2.21 mmol) in anhydrous toluene (11 ml) at 0° C. The reaction solution was gradually warmed to room temperature and stirred at the same temperature for three hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic phase was sequentially washed with water and saturated brine and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane) to give N-(2-(benzyloxy)ethyl)-N-(4-bromo-3,5-dimethylphenyl)carbamic acid chloride (860 mg, 98%).

reactant | Phosgene | 6.64 mmol, 3.5 ml | C(=O)(Cl)Cl | CCl2O
reactant | N,N-diisopropylethylamine | 6.64 mmol, 1.2 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(2-(benzyloxy)ethyl)-4-bromo-3,5-dimethylaniline | 2.21 mmol, 740 mg | C(C1=CC=CC=C1)OCCNC1=CC(=C(C(=C1)C)Br)C | C17H20BrNO
reactant | Water | O | H2O
solvent | toluene | 11 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-(benzyloxy)ethyl)-N-(4-bromo-3,5-dimethylphenyl)carbamic acid chloride | 860 mg, 98% | C(C1=CC=CC=C1)OCCN(C(=O)Cl)C1=CC(=C(C(=C1)C)Br)C | C18H19BrClNO2
